US05633099
In a flask (500-ml volume) equipped with 10 distillation columns, 2,2,3,3-tetrafluoropropanol (100 g, 0.76 mol), dimethyl carbonate (205 g, 2.3 mol) and a 28% sodium methoxide/methanol solution (1.4 g) were charged. The flask was heated to 120° C. to allow the starting materials to react for 10 hours while removing the methanol from the distillation columns by evaporation. After allowing the mixture to cool to room temperature, an aqueous solution of ammonium chloride was added to the mixture and the mixture was shaken to remove the sodium methoxide. The organic layer was washed with water, dried and distilled to give methyl 2,2,3,3-tetrafluoropropyl carbonate as a colorless liquid (70 g, yield 49%). The chemical structure of the produced compound was determined based on the IR and NMR absorbance spectra shown in FIG. 9 and FIG. 10 respectively and the mass spectrometry spectrum (M/e=190).

reactant | 2,2,3,3-tetrafluoropropanol | 0.76 mol, 100 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | dimethyl carbonate | 2.3 mol, 205 g | C(OC)(OC)=O | C3H6O3
catalyst | sodium methoxide methanol | 1.4 g | C[O-].[Na+].CO
product | methyl 2,2,3,3-tetrafluoropropyl carbonate | 70 g, yield 49% | C(OC)(OCC(C(F)F)(F)F)=O | C5H6F4O3
